Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine
 
Attending: ___.
 
Chief Complaint:
epigastric pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ year old female with multiple medical 
problems including distant gastric bypass with multiple 
complications and subsequent surgeries, chronic abdominal pain, 
substance abuse, and pulmonary embolism currently on lovenox who 
presents with persistent odynophagia, abdominal pain and nausea 
and vomiting. She reports that since she was discharged on 
___ she has had persistent pain with eating and swallowing, 
epigastric abdominal pain and nausea and vomiting. She has 
chronic epigastric abdominal discomfort and nausea related to 
multiple surgeries. She describes the pain as sharp and burning 
with swallowing - worse with solids than liquids. She can 
swallow pills. There is no radiation, no change with position, 
no shortness of breath.  
The patient was admitted last week for odynophagia. Her 
presentation was most consistent with esophagitis due to GERD. 
She underwent EGD that confirmed esophagitis (grossly and on 
biopsy). Viral culture was negative. She has a history of 
___ esophagitis (___) but  
biopsy did not demonstrate fungus. HIV test was negative. She 
was started on PPI BID and sucrulfate (slurry) 1gram QID. She 
was given viscous lidocaine to take prior to meals and was able 
to tolerate a regular diet. EGD noted bile in the stomach so she 
was started on cholestyramine. Small bowel follow through did 
not demonstrate fistula between remnant and gastric pouch 
causing non acid bile reflux. She was discharged on PPI BID, 
sucrulfate, and cholestyramine. She was given a prescription for 
GI cocktail with lidocaine that she can take for one week. She 
was given a small number of PO dilaudid tabs for pain control. 
She was in rehab from ___ until ___. Per Dr. ___ G 
tube was attempted in ___ at ___ but she 
developed a hematoma so it was removed.  
 
She reports that since discharge she has been uncomfortable. She 
thinks she was discharged "too soon."  
In the ED, triage and all subsequent vital signs were normal, 
and she was afebrile. She was given IV dilaudid.

Review of sytems:  
(+) Per HPI  
(-) Ten point review of systems is otherwise negative.  

 
Past Medical History:
-Morbid obesity (max 448lbs) s/p gastric bypass & CCY at 
___  and complete reversal
-History of HTN, DM, asthma (prior to gastric bypass)  
-Opiate addiction: prior intranasal herion, oral dilaudid abuse, 
now on suboxone  
-Depression/Anxiety  
-Esophagitis: EGD ___ showed mild active esophagitis.  
-DJD  
-2 SBOs  
-Menopause completed  

Past Surgical History:  
-___- gastric bypass & CCY  and subsequent complete 
reversal
-7 surgeries on the abdomen. "stomach leak" hernia, 2 SBOs, 
attempted reverse of the gastric bypass, the most recent in ___ 
 

 
Social History:
___
Family History:
-Mother with diabetes
 
Physical Exam:
VSS
General: appears older than stated age, comfortable  
HEENT: OP with white plaques on tongue, no lesions on soft 
palate
HEENT: anicteric sclera, oropharynx clear  
Lungs: CTA bilaterally, unlabored  
CV: S1, S2 regular rhythm, normal rate  
Abdomen: healed surgical scars, soft, mild epigastric ttp, 
non-distended  
Ext: warm, distal pulses intact  
Skin: no obvious rash  
Neuro: alert, speech fluent, tongue midline  

 
Pertinent Results:
___ 08:37AM BLOOD WBC-3.2* RBC-3.70* Hgb-11.2* Hct-35.1* 
MCV-95 MCH-30.4 MCHC-32.1 RDW-14.2 Plt ___
___ 07:25AM BLOOD WBC-3.2* RBC-3.61* Hgb-10.9* Hct-35.0* 
MCV-97 MCH-30.0 MCHC-31.0 RDW-14.2 Plt ___
___ 08:37AM BLOOD Neuts-59.9 ___ Monos-3.8 Eos-2.5 
Baso-0.8
___ 07:25AM BLOOD Plt ___
___ 07:25AM BLOOD ___ PTT-33.2 ___
___ 07:25AM BLOOD Glucose-88 UreaN-6 Creat-0.7 Na-136 K-3.9 
Cl-102 HCO3-27 AnGap-11
___ 08:37AM BLOOD ALT-10 AST-13 AlkPhos-80 TotBili-0.2

___ 3:06 pm THROAT FOR STREP
      PERFORM SENSITIVITES FOR ___ SPECIES, CONCERN FOR 
AZOLE
      RESISTENCE. 

   GRAM STAIN- R/O THRUSH (Final ___: 
      NEGATIVE FOR YEAST. 
      NO ___ ORGANISMS SEEN. 

   FUNGAL CULTURE (Preliminary): 

___ Lower extremity ultrasound with doppler, bilateral: 
IMPRESSION:  
1.  No evidence of acute DVT in the bilateral lower extremities. 
  
2.  Small amount of chronic thrombus versus post-DVT wall 
thickening in the 
bilateral popliteal veins. 
3.  Of note, the right peroneal and posterior tibialis veins 
were not 
definitively visualized. 

___ MRCP
IMPRESSION: 
1.  Mild-to-moderate dilation of the extrahepatic bile duct and 
central 
intrahepatic bile ducts and mild dilation of the main pancreatic 
duct; 
findings may be related to sphincter of Oddi dysfunction versus 
less likely 
papillary stenosis.  Overall appearance is similar to the prior 
MRCP study 
from ___. 
2.  Fat interdigitation of the pancreas, no findings to suggest 
acute 
pancreatitis. 
3.  Prior reversal of gastric bypass surgery with removal of the 
intervening 
jejunal limb. Distorted remaining stomach. Widely patent 
jejunal-jejunal 
anastomosis. 

 
Brief Hospital Course:
___ year old female with multiple medical problems including 
distant gastric bypass with multiple complications and 
subsequent surgeries, subsequent reversal of bypass (removal of 
intervening jejunal limb), chronic abdominal pain, substance 
abuse, and pulmonary embolism currently on Lovenox who presents 
with odynophagia and burning chest pain.  
 
# ODYNOPHAGIA and ABDOMINAL PAIN with ESOPHAGITIS: Her 
presentation is similar to prior episodes of admissions for 
esophagitis. Biliary dilation on MRCP is stable, but raised 
concern for sphincter of Oddi dysfunction versus papillary 
stenosis. Gastroenterology was consulted and requested that 
levels of micronutrients be checked and that calorie counts be 
performed to clarify oral intake. There was ongoing concern that 
patient takes her medications not as directed and precipitates 
methadone or opiate withdrawal, which was supported by patient's 
negative methadone on her tox screen on admission. She was only 
recently started on Dilaudid, and this was tapered down during 
the admission.
- MRCP reviewed and felt to be chronic.  Her pain was felt to be 
due to reflux esophagitis and possible dysmotility of some sort. 
 She was placed on an aggressive GI cocktail.  Her Methadone was 
decreased to 10mg TID.  Her Dilaudid was weaned off after 
discussions with her and her PCP (opiates not started by current 
PCP, ultimate goal to wean off, dependence issues).  She was 
initiated on Gabapentin in place of this.
- Outpatient EUS was recommended and scheduled by GI

# Vitamin B12/Copper deficiency: Followed by neurology and felt 
that long standing weakness may be due to copper deficiency so 
started on supplemental copper.  B12 deficiency also discovered. 
 Given 1 week of IM B12, converted to PO B12 on discharge

# Moderate malnutrition: Followed by nutrition.  Was able to 
maintain counts with meals and carnation TID with meals with 
protein and milk added.  GI recommended small frequent low fiber 
meals.
 
#Hx of DVT: On treatment dose Lovenox for recent DVT. Hematology 
was consulted about duration of anticoagulation and they 
recommended continuing Lovenox while patient was still with 
reduced mobility.

#Depression/anxiety: Continued home Doxepin, clonazepam, 
QUEtiapine and Mirtazapine. Of note, pt reports that she has 
been taking 1mg Klonopin tid for ___ years," but on discussion 
with her PCP at ___ it was confirmed that she takes 0.5mg 
tid, however this is managed by her psychiatrist, so was 
increased back to 1mg TID.   
 
# DNR DNI: Per discussion with patient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 150 mg PO QAM 
2. ClonazePAM 1 mg PO TID 
3. copper gluconate 2 mg oral daily 
4. Doxepin HCl 75 mg PO HS 
5. Methadone 10 mg PO Q6H 
6. Mirtazapine 22.5 mg PO HS 
7. QUEtiapine Fumarate 100 mg PO QAM 
8. QUEtiapine Fumarate 300 mg PO QHS 
9. Sucralfate 1 gm PO QID 
10. Cholestyramine 4 gm PO TID 
11. Lidocaine Viscous 2% 15 mL PO TID 
12. Omeprazole 40 mg PO BID 
13. Furosemide 40 mg PO DAILY 
14. Vitamin D 1000 UNIT PO DAILY 
15. Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN 
odynophagia  
16. HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN pain 
17. Enoxaparin Sodium 60 mg SC Q12H 

 
Discharge Medications:
1. BuPROPion (Sustained Release) 150 mg PO QAM 
2. Cholestyramine 2 gm PO BID 
3. ClonazePAM 1 mg PO TID 
4. copper gluconate 2 mg oral daily 
5. Doxepin HCl 75 mg PO HS 
6. Enoxaparin Sodium 60 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
7. Furosemide 40 mg PO DAILY 
8. Lidocaine Viscous 2% 15 mL PO TID 
RX *lidocaine HCl 20 mg/mL 15 mL three times a day Disp #*450 
Milliliter Refills:*0
9. Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN 
odynophagia  
RX *alum-mag hydroxide-simeth 200 mg-200 mg-20 mg/5 mL ___ mL 
by mouth three times a day Disp #*450 Milliliter Refills:*0
10. Methadone 10 mg PO TID 
RX *methadone 10 mg 1 tablet by mouth three times a day Disp #*9 
Tablet Refills:*0
11. Mirtazapine 22.5 mg PO HS 
12. QUEtiapine Fumarate 100 mg PO QAM 
13. QUEtiapine Fumarate 300 mg PO QHS 
14. Sucralfate 1 gm PO QID 
15. Vitamin D 1000 UNIT PO DAILY 
16. Omeprazole 40 mg PO BID 
17. Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals   1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0
18. Thiamine 100 mg PO DAILY 
RX *thiamine HCl 100 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0
19. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet,disintegrating(s) by mouth every 
eight (8) hours Disp #*30 Tablet Refills:*0
20. Gabapentin 600 mg PO Q8H 
RX *gabapentin 300 mg 2 capsule(s) by mouth three times a day 
Disp #*180 Capsule Refills:*0
21. Cyanocobalamin 1000 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 1,000 mcg 1 tablet(s) by mouth 
once a day Disp #*90 Tablet Refills:*0
22. Nutritional supplement
Please take Carnation instant breafast three times daily with 
food.  Please add 1 scoop whey protein to liquid.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Chronic Abdominal pain
History of deep vein thrombosis
Esophagitis
Malnutrition
Vitamin B12 Deficiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure to participate in your care. You were admitted 
with pain when swallowing. A recent upper endoscopy showed 
inflammation in your esophagus (esophagitis). You were treated 
with 
medicine to reduce stomach acid (omeprazole, sucrulfate).  There 
may still be some discomfort with swallowing. For the next week 
at least, you should take the GI-cocktail prescribed prior to 
meals to reduce the pain.  Additonally, you will need to follow 
up with gastroenterology for a endoscopic ultrasound.  You will 
be given enough Methadone to reach your PCP ___.  Please 
discuss with her regarding continuation of this medication.

Please continue your Carnation supplements with meals, and add 1 
scoop of whey protein and mild for full nutrition.

You were also seen by the hematology consult service to clarify 
whether you should continue your lovenox. They felt that you 
should continue this.
 
Followup Instructions:
___